US07314936B2
To a solution of 2-amino-cyclohexanol (3.50 g 23.0 mmol, 1.0 eq.) in CH2Cl2 (100 mL) was added ethylchloroformate (2.65 mL, 1.2 eq.) followed by an aqueous solution of K2CO3 (16.0 g in 200 mL of H2O). The mixture was stirred vigorously for 1 h. The separated aqueous layer was extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4, filtered and concentrated to give (2-hydroxy-cyclohexyl)-carbamic acid ethyl ester (4.36 g, >100%).

reactant | 2-amino-cyclohexanol | 23.0 mmol, 3.50 g, 1.0 eq. | NC1C(CCCC1)O | C6H13NO
reactant | ethylchloroformate | 2.65 mL, 1.2 eq. | C(C)OC(=O)Cl | C3H5ClO2
reactant | K2CO3 | 200 mL, 16.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (2-hydroxy-cyclohexyl)-carbamic acid ethyl ester | 4.36 g, >100% | C(C)OC(NC1C(CCCC1)O)=O | C9H17NO3
